US08048909B2
4-{[2-(2-Fluorophenyl)-4-[(methylamino)methyl]-1H-pyrrol-1-yl]sulfonyl}benzonitrile hydrochloride
4-{[2-(2-Fluorophenyl)-4-formyl-1H-pyrrol-1-yl]sulfonyl}benzonitrile (385 mg) was dissolved in methanol (20 mL), 40% methylamine methanol solution (844 mg) was added at room temperature, and the mixture was stirred for 30 min. Sodium borohydride (124 mg) was added at room temperature, and the mixture was stirred for 10 min. 1 mol/L Hydrochloric acid (50 mL) was added, and the mixture was stirred for 5 min. The reaction mixture was alkalized with a saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The extract was purified with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was washed with basic silica gel column chromatography (eluent: ethyl acetate-methanol=1:0→7:3), and dissolved in methanol (10 mL). A 4 mol/L hydrogen chloride-ethyl acetate solution (2 mL) was added, and the mixture was concentrated under reduced pressure. The residue was crystallized from ethyl acetate to give the title compound as colorless crystals (yield 274 mg, 62%).

reactant | 4-{[2-(2-Fluorophenyl)-4-formyl-1H-pyrrol-1-yl]sulfonyl}benzonitrile | 385 mg | FC1=C(C=CC=C1)C=1N(C=C(C1)C=O)S(=O)(=O)C1=CC=C(C#N)C=C1 | C18H11FN2O3S
reactant | methylamine methanol | 844 mg | CO.CN
reactant | Sodium borohydride | 124 mg | [BH4-].[Na+]
reactant | Hydrochloric acid | 1 mol/L, 50 mL | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 4-{[2-(2-Fluorophenyl)-4-[(methylamino)methyl]-1H-pyrrol-1-yl]sulfonyl}benzonitrile hydrochloride | yield 274 mg, 62% | Cl.FC1=C(C=CC=C1)C=1N(C=C(C1)CNC)S(=O)(=O)C1=CC=C(C#N)C=C1 | InChI=1S/C19H16FN3O2S.ClH/c1-22-12-15-10-19(17-4-2-3-5-18(17)20)23(13-15)26(24,25)16-8-6-14(11-21)7-9-16;/h2-10,13,22H,12H2,1H3;1H
